* SPICE3 file created from MidPropGen.ext - technology: scmos

.option scale=0.09u

M1000 in1_inv in2 vdd w_n81_8# pfet w=20 l=2
+  ad=100 pd=50 as=500 ps=240
M1001 g_inv in2 a_30_40# Gnd nfet w=20 l=2
+  ad=100 pd=50 as=160 ps=56
M1002 a_n4_n7# in1 vdd w_n81_8# pfet w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1003 in1_inv in1 mid_s Gnd nfet w=10 l=2
+  ad=100 pd=60 as=70 ps=34
M1004 a_30_40# in1 gnd Gnd nfet w=20 l=2
+  ad=0 pd=0 as=250 ps=140
M1005 mid_s in2 in1 w_n81_8# pfet w=20 l=2
+  ad=140 pd=54 as=100 ps=50
M1006 p_inv in2 a_n4_n7# w_n81_8# pfet w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1007 g_inv in1 vdd w_n81_8# pfet w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1008 p_inv in1 gnd Gnd nfet w=10 l=2
+  ad=80 pd=36 as=0 ps=0
M1009 vdd in2 g_inv w_n81_8# pfet w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 in1_inv in2 gnd Gnd nfet w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1011 gnd in2 p_inv Gnd nfet w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1012 in2 in1 mid_s w_n81_8# pfet w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1013 mid_s in1_inv in1 Gnd nfet w=10 l=2
+  ad=0 pd=0 as=50 ps=30
C0 gnd in2 0.02fF
C1 a_n4_n7# in1 0.01fF
C2 w_n81_8# vdd 0.15fF
C3 w_n81_8# mid_s 0.17fF
C4 in2 g_inv 0.10fF
C5 gnd g_inv 0.04fF
C6 w_n81_8# p_inv 0.02fF
C7 vdd in1 0.00fF
C8 vdd in2 0.06fF
C9 mid_s in1 0.42fF
C10 in2 mid_s 0.00fF
C11 p_inv in1 0.05fF
C12 p_inv in2 0.30fF
C13 gnd p_inv 0.09fF
C14 w_n81_8# in1_inv 0.02fF
C15 w_n81_8# in1 0.37fF
C16 w_n81_8# in2 0.87fF
C17 in1_inv in1 0.09fF
C18 in1_inv in2 0.13fF
C19 in1_inv gnd 0.19fF
C20 in2 in1 0.67fF
C21 gnd in1 0.02fF
C22 w_n81_8# g_inv 0.04fF
C23 g_inv Gnd 0.09fF
C24 vdd Gnd 0.13fF
C25 p_inv Gnd 0.02fF
C26 gnd Gnd 0.13fF
C27 mid_s Gnd 0.36fF
C28 in2 Gnd 0.42fF
C29 in1 Gnd 0.80fF
C30 in1_inv Gnd 0.53fF
C31 w_n81_8# Gnd 2.94fF
