* SPICE3 file created from PropSumGen.ext - technology: scmos

.option scale=0.09u

M1000 vdd mid_sumbit a_6_n255# w_22_n262# pfet w=20 l=2
+  ad=640 pd=294 as=100 ps=50
M1001 sum_bit carry_in mid_sumbit w_61_n257# pfet w=20 l=2
+  ad=140 pd=54 as=240 ps=104
M1002 g_inv in2 vdd w_n37_n170# pfet w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1003 gnd in1 a_n24_n202# Gnd nfet w=20 l=2
+  ad=300 pd=170 as=160 ps=56
M1004 gnd in2 a_n84_n281# Gnd nfet w=10 l=2
+  ad=0 pd=0 as=100 ps=60
M1005 gnd mid_sumbit a_6_n255# Gnd nfet w=10 l=2
+  ad=0 pd=0 as=100 ps=60
M1006 carry_in mid_sumbit sum_bit w_61_n257# pfet w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1007 a_n84_n281# in1 mid_sumbit Gnd nfet w=10 l=2
+  ad=0 pd=0 as=70 ps=34
M1008 mid_sumbit a_n84_n281# in1 Gnd nfet w=10 l=2
+  ad=0 pd=0 as=50 ps=30
M1009 vdd in1 g_inv w_n37_n170# pfet w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 in2 in1 mid_sumbit w_n95_n257# pfet w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1011 a_10_n164# in2 vdd w_n37_n170# pfet w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1012 p_inv in2 gnd Gnd nfet w=10 l=2
+  ad=80 pd=36 as=0 ps=0
M1013 mid_sumbit in2 in1 w_n95_n257# pfet w=20 l=2
+  ad=0 pd=0 as=100 ps=50
M1014 vdd in2 a_n84_n281# w_n55_n262# pfet w=20 l=2
+  ad=0 pd=0 as=100 ps=50
M1015 p_inv in1 a_10_n164# w_n37_n170# pfet w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1016 gnd in1 p_inv Gnd nfet w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1017 a_n24_n202# in2 g_inv Gnd nfet w=20 l=2
+  ad=0 pd=0 as=100 ps=50
M1018 sum_bit carry_in a_6_n255# Gnd nfet w=10 l=2
+  ad=70 pd=34 as=0 ps=0
M1019 carry_in a_6_n255# sum_bit Gnd nfet w=10 l=2
+  ad=50 pd=30 as=0 ps=0
C0 w_n55_n262# vdd 0.11fF
C1 w_n37_n170# vdd 0.12fF
C2 w_61_n257# sum_bit 0.17fF
C3 w_n95_n257# in2 0.10fF
C4 w_22_n262# a_6_n255# 0.02fF
C5 in2 g_inv 0.23fF
C6 in1 vdd 0.12fF
C7 w_22_n262# mid_sumbit 0.07fF
C8 gnd in2 0.05fF
C9 a_n84_n281# in2 0.06fF
C10 mid_sumbit vdd 0.12fF
C11 carry_in a_6_n255# 0.10fF
C12 mid_sumbit carry_in 0.27fF
C13 w_n37_n170# in1 0.44fF
C14 w_61_n257# carry_in 0.24fF
C15 in2 vdd 0.19fF
C16 w_n37_n170# p_inv 0.02fF
C17 gnd vdd 0.42fF
C18 a_n24_n202# in2 0.01fF
C19 p_inv in1 0.17fF
C20 mid_sumbit in1 0.40fF
C21 carry_in sum_bit 0.35fF
C22 mid_sumbit a_6_n255# 0.06fF
C23 w_22_n262# vdd 0.11fF
C24 w_n37_n170# g_inv 0.04fF
C25 w_n55_n262# in2 0.07fF
C26 w_n95_n257# in1 0.24fF
C27 w_n37_n170# in2 0.14fF
C28 in1 g_inv 0.18fF
C29 w_n55_n262# a_n84_n281# 0.02fF
C30 w_61_n257# mid_sumbit 0.10fF
C31 in2 in1 1.02fF
C32 w_n95_n257# mid_sumbit 0.18fF
C33 a_n84_n281# in1 0.10fF
C34 p_inv in2 0.02fF
C35 mid_sumbit in2 0.25fF
C36 gnd a_6_n255# 0.02fF
C37 mid_sumbit sum_bit 0.00fF
C38 p_inv gnd 0.02fF
C39 gnd mid_sumbit 0.22fF
C40 sum_bit Gnd 0.43fF
C41 a_6_n255# Gnd 0.38fF
C42 a_n84_n281# Gnd 0.38fF
C43 carry_in Gnd 0.69fF
C44 mid_sumbit Gnd 1.09fF
C45 gnd Gnd 0.37fF
C46 p_inv Gnd 0.07fF
C47 g_inv Gnd 0.06fF
C48 vdd Gnd 1.74fF
C49 in1 Gnd 1.34fF
C50 in2 Gnd 1.19fF
C51 w_61_n257# Gnd 1.06fF
C52 w_22_n262# Gnd 0.84fF
C53 w_n55_n262# Gnd 0.84fF
C54 w_n95_n257# Gnd 1.06fF
C55 w_n37_n170# Gnd 1.09fF
